US07713994B2
tert-Butyl 4-(5-aminopyridin-2-yl)piperazine-1-carboxylate
A mixture of tert-butyl 4-(5-nitropyridin-2-yl)piperazine-1-carboxylate (0.5 g, 1.62 mmol), iron powder (0.35 g, 6.26 mmol), acetic acid (0.72 mL, 11.34 mmol) in methanol (6 mL) is heated at 66 C for 1 h. After it is evaporated to dryness, ethyl acetate is added, and then the mixture is filtered through a pad of Celite. The filtrate is evaporated to yield 0.32 g (72%) of the title compound as an orange gum. NMR (CDCl3) spectrum of the product showed it is pure.

reactant | tert-butyl 4-(5-nitropyridin-2-yl)piperazine-1-carboxylate | 1.62 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N4O4
reactant | acetic acid | 11.34 mmol, 0.72 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 6 mL | CO | CH4O
catalyst | iron | 6.26 mmol, 0.35 g | [Fe] | Fe
product | tert-Butyl 4-(5-aminopyridin-2-yl)piperazine-1-carboxylate | 0.32 g, 72% | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
